US09102591B2
2,3-dichloro-N-((4-(2-(trifluoromethyl)pyrimidin-5-yl)tetrahydro-2H-pyran-4-yl)methyl)benzamide
From 2,3-dichlorobenzoic acid and (4-(2-(trifluoromethyl)pyrimidin-5-yl)tetrahydro-2H-pyran-4-yl)methanamine. LCMS (MH+): m/z=434.1, tR (minutes, Method F)=2.34

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | (4-(2-(trifluoromethyl)pyrimidin-5-yl)tetrahydro-2H-pyran-4-yl)methanamine | FC(C1=NC=C(C=N1)C1(CCOCC1)CN)(F)F | C11H14F3N3O
product | 2,3-dichloro-N-((4-(2-(trifluoromethyl)pyrimidin-5-yl)tetrahydro-2H-pyran-4-yl)methyl)benzamide | ClC1=C(C(=O)NCC2(CCOCC2)C=2C=NC(=NC2)C(F)(F)F)C=CC=C1Cl | C18H16Cl2F3N3O2
